US04168267
1-[[Hydroxy(phenylmethyl)phosphinyl]acetyl]-L-proline is dissolved in water and treated with two molar equivalents of aqueous sodium hydroxide. The resulting solution is lyophilized to give the product, 1-[[hydroxy(phenylmethyl) phosphinyl]acetyl]-L-proline disodium salt.

reactant | 1-[[Hydroxy(phenylmethyl)phosphinyl]acetyl]-L-proline | OP(=O)(CC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)O)CCC1 | C14H18NO5P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[[hydroxy(phenylmethyl) phosphinyl]acetyl]-L-proline disodium salt | [Na+].[Na+].OP(=O)(CC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)[O-])CCC1.OP(=O)(CC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)[O-])CCC1 | InChI=1S/2C14H18NO5P.2Na/c2*16-13(15-8-4-7-12(15)14(17)18)10-21(19,20)9-11-5-2-1-3-6-11;;/h2*1-3,5-6,12H,4,7-10H2,(H,17,18)(H,19,20);;/q;;2*+1/p-2/t2*12-;;/m00../s1
